US05656460
α-Glucose methyldopa
A fraction containing α-glucosyl methyldopa was recovered, concentrated in vacuo and pulverized to obtain a white α-glucosyl methyldopa preparation in the yield of about 55% against the weight of the material methyldopa, d.s.b. High-performance liquid chromatography (HPLC) analysis of the preparation revealed that it contained about 60% 3-α-glucosyl methyldopa and about 40% 4-α-glucosyl methyldopa.

reactant | α-glucosyl methyldopa | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N([C@H](C(=O)O)CC1=CC=C(O)C(O)=C1)C | C16H23NO9
reactant | methyldopa | CN[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1 | C10H13NO4
product | α-Glucose methyldopa | CN[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1.O[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | InChI=1S/C10H13NO4.C6H12O6/c1-11-7(10(14)15)4-6-2-3-8(12)9(13)5-6;7-1-2-3(8)4(9)5(10)6(11)12-2/h2-3,5,7,11-13H,4H2,1H3,(H,14,15);2-11H,1H2/t7-;2-,3-,4+,5-,6+/m01/s1
